US06096743
By using 3.00 g of 2,4-difluoro-5-nitrotoluene, 8.77 g of triethylamine, 40 ml of DMF, 40 ml of THF and 2.42 g of glycine ethyl ester hydrochloride, 2.70 g (61%) of N-(5-fluoro-4-methyl-2-nitrophenyl)glycine ethyl ester was obtained.

reactant | 2,4-difluoro-5-nitrotoluene | 3.00 g | FC1=C(C=C(C(=C1)F)[N+](=O)[O-])C | C7H5F2NO2
reactant | triethylamine | 8.77 g | C(C)N(CC)CC | C6H15N
reactant | DMF | 40 ml | CN(C)C=O | C3H7NO
reactant | glycine ethyl ester hydrochloride | 2.42 g | Cl.C(C)OC(CN)=O
solvent | THF | 40 ml | C1CCOC1 | C4H8O
product | N-(5-fluoro-4-methyl-2-nitrophenyl)glycine ethyl ester | 2.70 g, 61% | C(C)OC(CNC1=C(C=C(C(=C1)F)C)[N+](=O)[O-])=O | C11H13FN2O4
